US04725610
A mixture of 4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzonitrile (6.5 g), Raney nickel alloy (6.5 g) and 70% formic acid (100 ml) was heated under reflux for 2 hours. The insoluble matter was filtered off, and the filtrate was concentrated under reduced pressure. Water was added to the residue, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and concentrated. The remaining oily material was chromatographed on a column of silica gel, and from the fractions eluted with chloroform-hexane (1:1, V/V), there were obtained crystlas (5.2 g, 78.5%) of 4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzaldehyde. Recrystallization from ether-hexane yielded colorless needles, m.p. 82°-84° C. Elemental analysis for C19H17NO3 ; Calcd.: C, 74.25; H, 5.57; N, 4.56. Found: C, 74.47; H, 5.53; N, 4.34.

reactant | 4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzonitrile | 6.5 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(C#N)C=C1 | C19H16N2O2
reactant | formic acid | 100 ml | C(=O)O | CH2O2
catalyst | Raney nickel | [Ni] | Ni
product | 4-[2-(5-methyl-2-phenyl-4-oxazolyl)ethoxy]benzaldehyde | 5.2 g, 78.5% | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(C=O)C=C1 | C19H17NO3
